US05594023
5-Chloro-3-(2-chlorophenyl)-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-[(2-hydroxyethyl)amino]indol-2-one
A solution of 1.084 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[[2-(trimethylsilyloxy)ethyl]amino]indol-2-one in 20 ml of DMF is cooled to 0° C. under an argon atmosphere and 0.111 g of sodium hydride as a 60% dispersion in oil is added. After stirring for 25 minutes, 0.78 g of 4-(N',N'-diethylureido)benzenesulfonyl chloride is added and the reaction mixture is stirred for 3 hours at RT. It is poured into water and extracted with AcOEt, the organic phase is washed with water and with a saturated solution of NaCl and dried over sodium sulfate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica using a DCM/AcOEt mixture (70/30; v/v) as the eluent to give 0.505 g of the expected product after crystallization and then recrystallization from a DCM/iso ether mixture. M.p.=192°-193° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[[2-(trimethylsilyloxy)ethyl]amino]indol-2-one | 1.084 g | ClC=1C=C2C(C(NC2=CC1)=O)(NCCO[Si](C)(C)C)C1=C(C=CC=C1)Cl | C19H22Cl2N2O2Si
reactant | sodium hydride | 0.111 g | [H-].[Na+]
reactant | 4-(N',N'-diethylureido)benzenesulfonyl chloride | 0.78 g | C(C)N(C(NC1=CC=C(C=C1)S(=O)(=O)Cl)=O)CC | C11H15ClN2O3S
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-3-(2-chlorophenyl)-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-[(2-hydroxyethyl)amino]indol-2-one | 0.505 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)NC(=O)N(CC)CC)=O)(NCCO)C1=C(C=CC=C1)Cl | C27H28Cl2N4O5S
